US07659268B2
To a mixture of 2-methoxypyrimidin-5-ylboronic acid (92 mg, 0.60 mmol) and N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide (180 mg, 0.50 mmol) in DME (3 mL) and 2 M Na2CO3 (1 mL) was added Pd(PPh3)4 (29 mg, 0.025 mmol). The mixture was heated in a microwave oven at 120° C. for 30 min. The mixture was partitioned between ethyl acetate and H2O and the aqueous layer was extracted with ethyl acetate (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by column chromatography to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide (140 mg, 64%). 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 2H), 8.03 (d, J=8.4 Hz, 1H), 7.58 (s, 1H), 7.53 (d, J=8.5 Hz, 1H), 7.18 (dd, J=8.6, 2.1 Hz, 1H), 7.13 (d, J=1.6 Hz, 1H), 7.04 (d, J=8.2 Hz, 1H), 3.98 (s, 3H), 2.26 (s, 3H), 1.68 (q, J=3.6 Hz, 2H), 1.12 (q, J=3.6 Hz, 2H). MS (ESI) m/e (M+H+) 441.3.

reactant | 2-methoxypyrimidin-5-ylboronic acid | 0.60 mmol, 92 mg | COC1=NC=C(C=N1)B(O)O | C5H7BN2O3
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropane-carboxamide | 0.50 mmol, 180 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
solvent | DME | 3 mL | COCCOC | C4H10O2
solvent | Na2CO3 | 2 M, 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(6-(2-methoxypyrimidin-5-yl)-5-methylpyridin-2-yl)cyclopropanecarboxamide | 140 mg, 64% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C=2C=NC(=NC2)OC)F | C22H18F2N4O4
